US09028976B2
An amount of 13.65 (53.7 mmol) of 9-phenylanthracene was dissolved in 100 ml of N,N dimethylformamide. An amount of 10.5 g (59 mmol) of N bromosuccinimide was added and allowed to react for six hours. Then, distilled water was added to stop the reaction and the deposit was filtered. The recovered deposit was purified by column chromatography to obtain 15.97 g (48 mmol) of 9-bromo-10-phenylanthracene. The yield was 89.3%.

reactant | 9-phenylanthracene | C1(=CC=CC=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C20H14
reactant | bromosuccinimide | BrC1C(=O)NC(C1)=O | C4H4BrNO2
solvent | N,N dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 9-bromo-10-phenylanthracene | 48 mmol, 15.97 g, yield was 89.3% | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C20H13Br
